US09399640B2
Step 5. 4-[4-(2,4-Difluorophenoxy)-1-methyl-1H-benzimidazol-5-yl]-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A suspension of 5-bromo-4-(2,4-difluorophenoxy)-1-methyl-1H-benzimidazole (0.300 g, 0.885 mmol) and potassium acetate (0.260 g, 2.65 mmol) in ethanol (6.63 mL) was degassed with nitrogen for 5 min, treated with tetrahydroxydiborane (0.238 g, 2.65 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (0.0056 g, 0.012 mmol), and dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (0.0035 g, 0.0044 mmol). The resultant reaction mixture was degassed with nitrogen for another 5 min, warmed to 80° C. and stirred at that temperature for 17 h, after which time the reaction mixture was cooled to RT, degassed with nitrogen for 5 min, treated with previously degassed 1.8M solution of potassium carbonate in water (1.47 mL, 2.65 mmol), followed by addition of 4-bromo-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (0.108 g, 0.295 mmol) and dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (0.0046 g, 0.0059 mmol). The resultant reaction mixture was degassed with nitrogen for another 5 min, and heated at 90° C. for 2 h. The reaction mixture was diluted with saturated sodium bicarbonate solution and ethyl acetate. The precipitate was collected by filtration, layers of filtrate were separated and the organic layer was dried with sodium sulfate, filtered, and concentrated to give a crude residue. This crude residue was combined with the previously collected solid precipitate and purified by flash column chromatography (100% CH2Cl2 to 12% MeOH/CH2Cl2) gave the desired product (84.8 mg, 53%) as a yellow solid. LCMS calculated for C28H21F2N4O4S (M+H)+: m/z=547.1. found: 547.0.

reactant | 5-bromo-4-(2,4-difluorophenoxy)-1-methyl-1H-benzimidazole | 0.885 mmol, 0.300 g | BrC1=C(C2=C(N(C=N2)C)C=C1)OC1=C(C=C(C=C1)F)F | C14H9BrF2N2O
reactant | potassium acetate | 2.65 mmol, 0.260 g | C(C)(=O)[O-].[K+]
reactant | tetrahydroxydiborane | 2.65 mmol, 0.238 g | B(B(O)O)(O)O | B2H4O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2.65 mmol, 1.47 mL | O | H2O
reactant | 4-bromo-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.295 mmol, 0.108 g | BrC=1C2=C(C(NC1)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C14H11BrN2O3S
solvent | ethanol | 6.63 mL | C(C)O | C2H6O
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.0044 mmol, 0.0035 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.0059 mmol, 0.0046 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.012 mmol, 0.0056 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | 4-[4-(2,4-Difluorophenoxy)-1-methyl-1H-benzimidazol-5-yl]-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 84.8 mg, 53% | FC1=C(OC2=C(C=CC=3N(C=NC32)C)C=3C2=C(C(NC3)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C28H20F2N4O4S
